US04539152
A mixture of platinum oxide (60.0 mg), water (4.2 ml), aqueous dipotassium hydrogen phosphate (1.0M, 0.385 ml) and ethanol (0.6 ml) was shaken for 30 minutes under a hydrogen atmosphere (50 psi) at ambient temperature. The mixture was added to a solution of 4-nitrobenzyl (5R,6R)-6-[1-methyl-1-(4-nitrobenzyloxycarbonyloxy)ethyl]-3-[2-(4-nitrobenzyloxycarbonylamino)-ethylthio]-7-oxo-1-azabicyclo-[3.2.0]hept-2-ene-2-carboxylate (60.0 mg) in dioxane (7.2 ml) and shaken for 2 hours under a hydrogen atmosphere (50 psi) at ambient temperature. The reaction mixture was filtered using diatomaceous earth and the filter-cake was washed with water (20 ml). The combined filtrates (32 ml) were lyophilized over a period of 4 hours. The residue was chromatographed on non-ionic adsorption resin, Diaion HP-20-AG (trade mark, made by Mitsubishi Chemical Industries) (13×230 mm) eluting with water (120 ml) and then a mixture of water and isopropanol (19:1, 60 ml). The fractions showing UV maxima at 296 nm were collected, concentrated and lyophilized to give potassium (5R,6R)-3-(2-aminoethylthio)-6-(1-hydroxy-1-methylethyl)-7-oxo-1-azabicyclo[3.2.0]hept-2-ene-2-carboxylate (10.4 mg) as pale yellow powder.

reactant | water | 4.2 ml | O | H2O
reactant | dipotassium hydrogen phosphate | 1.0M, 0.385 ml | P(=O)(O)([O-])[O-].[K+].[K+]
reactant | ethanol | 0.6 ml | C(C)O | C2H6O
reactant | 4-nitrobenzyl (5R,6R)-6-[1-methyl-1-(4-nitrobenzyloxycarbonyloxy)ethyl]-3-[2-(4-nitrobenzyloxycarbonylamino)-ethylthio]-7-oxo-1-azabicyclo-[3.2.0]hept-2-ene-2-carboxylate | 60.0 mg | CC(C)(OC(=O)OCC1=CC=C(C=C1)[N+](=O)[O-])[C@H]1[C@H]2CC(=C(N2C1=O)C(=O)OCC1=CC=C(C=C1)[N+](=O)[O-])SCCNC(=O)OCC1=CC=C(C=C1)[N+](=O)[O-] | C35H33N5O14S
solvent | dioxane | 7.2 ml | O1CCOCC1 | C4H8O2
catalyst | platinum oxide | 60.0 mg | [Pt]=O
product | potassium (5R,6R)-3-(2-aminoethylthio)-6-(1-hydroxy-1-methylethyl)-7-oxo-1-azabicyclo[3.2.0]hept-2-ene-2-carboxylate | 10.4 mg | NCCSC1=C(N2C([C@H]([C@H]2C1)C(C)(C)O)=O)C(=O)[O-].[K+] | InChI=1S/C12H18N2O4S.K/c1-12(2,18)8-6-5-7(19-4-3-13)9(11(16)17)14(6)10(8)15;/h6,8,18H,3-5,13H2,1-2H3,(H,16,17);/q;+1/p-1/t6-,8+;/m1./s1
